US05587392
Synthesis of 5-chloro-N-ethyl-2-nitroaniline
Under ice cooling, the solution of N-acetyl-5-chloro-2-nitroaniline (3 g) in THF (30 ml) was added dropwise to the suspension of LiAlH4 (0.53 g) in THF (50 ml) over 30 minutes. The mixture was stirred under ice cooling for 1 hour. Into the resulting reaction solution was added ice with caution, followed by addition of ethyl acetate and saturated sodium chloride solution, and then insoluble materials was filtered off. The ethyl acetate layer was separated, washed with water and saturated sodium chloride solution, and dried over anhydrous sodium sulfate. After removal of the solvent, the residue was purified by chromatography on a silica gel column (hexane:ethyl acetate =19:1), to give the title compound (1.14 g; 41%).

reactant | N-acetyl-5-chloro-2-nitroaniline | 3 g | C(C)(=O)NC1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C8H7ClN2O3
reactant | LiAlH4 | 0.53 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium chloride | [Cl-].[Na+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 5-chloro-N-ethyl-2-nitroaniline | 1.14 g, 41% | ClC=1C=CC(=C(NCC)C1)[N+](=O)[O-] | C8H9ClN2O2
